US07335658B2
6-(4-CYCLOBUTANECARBONYLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 4-cyclobutanecarboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (45.6% yield). 1H NMR (300 MHz, CDCl3) δ 8.03, 7.97, 6.97, 3.82-3.64, 3.57-3.49, 3.26, 2.43-2.27, 2.22-2.05 2.02-1.81, 1.50, 0.75, 0.46, 0.08. MS (ES+) m/z 358 (M+1).

reactant | 4-cyclobutanecarboxylic acid | C1CCC1C(=O)O | C5H8O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-(4-CYCLOBUTANECARBONYLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1CCC1 | C19H27N5O2
